US06727264B1
1-PHENYL-1H-INDOL-6-YL TRIFLUOROMETHYL ETHER:
Prepared by Procedure C and Scheme O using 6-(trifluoromethoxy)-1H-indole and iodobenzene: ESMS m/e: 278.0 (M+H)+.

reactant | 6-(trifluoromethoxy)-1H-indole | FC(OC1=CC=C2C=CNC2=C1)(F)F | C9H6F3NO
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 1-PHENYL-1H-INDOL-6-YL TRIFLUOROMETHYL ETHER | FC(F)(F)OC1=CC=C2C=CN(C2=C1)C1=CC=CC=C1 | C15H10F3NO
